US04681960
20.02 g (0.2 mol) of (E)-2-methyl-2-butenoic acid was dissolved in 100 ml of dry ethyl ether. 36.0 g (0.2 mol) of trichlorogermane was added to the solution and stirred for 2 hrs. Crystals thus formed were recrystallized from n-hexane to obtain 42.86 g (yield: 76.5%) of 2-methyl-3-(trichlorogermyl)butanoic acid in the form of colorless plate.

reactant | (E)-2-methyl-2-butenoic acid | 0.2 mol, 20.02 g | C/C(/C(=O)O)=C\C | C5H8O2
reactant | trichlorogermane | 0.2 mol, 36.0 g | Cl[GeH](Cl)Cl | Cl3GeH
solvent | ethyl ether | 100 ml | C(C)OCC | C4H10O
product | 2-methyl-3-(trichlorogermyl)butanoic acid | 42.86 g, yield: 76.5% | CC(C(=O)O)C(C)[Ge](Cl)(Cl)Cl | C5H9Cl3GeO2
